### PR TITLE
Example: Joinable Red Black Tree in Decalf

### PR DESCRIPTION
**Pull request by EULIR**
This should supersede #34 by porting everything from calf to decalf.

### CODE REVIEW

File: src/Examples/Sequence/RedBlackTree.agda [hunk 1]
```diff
@@ -0,0 +1,701 @@
...
+joinLeftContCase₂ : ∀ l₁ l₂₁ l₂₂ a a₁ y₂₁ y₂₂ n₂ (t₂₂ : IRBT A y₂₂ n₂ l₂₂) →
+  (Σ (List (val A))(λ a₂ → Σ (a₂ ≡ l₁ ++ a ∷ l₂₁) (λ x → AlmostLeftRBT A y₂₁ n₂ a₂))) →
+    cmp (F (Σ⁺ (list A) (λ l → meta⁺ (l ≡ l₁ ++ a ∷ l₂₁ ++ a₁ ∷ l₂₂) ×⁺ alrbt A black (suc n₂) l)))
+joinLeftContCase₂ {A} l₁ l₂₁ l₂₂ a a₁ y₂₁ y₂₂ n₂ t₂₂ (l , l≡l₁++a∷l₂₁ , violation {l₂ = l'₂} (red {l₁ = l'₁₁} {l₂ = l'₁₂} t'₁₁ a'₁ t'₁₂) a' t'₂) =
+  ret ((l'₁₁ ++ [ a'₁ ] ++ l'₁₂) ++ [ a' ] ++ (l'₂ ++ [ a₁ ] ++ l₂₂) ,
+    ((begin
+        (l'₁₁ ++ a'₁ ∷ l'₁₂) ++ a' ∷ l'₂ ++ a₁ ∷ l₂₂
+      ≡˘⟨ List.++-assoc (l'₁₁ ++ a'₁ ∷ l'₁₂) (a' ∷ l'₂) (a₁ ∷ l₂₂) ⟩
+        ((l'₁₁ ++ a'₁ ∷ l'₁₂) ++ a' ∷ l'₂) ++ a₁ ∷ l₂₂
+      ≡⟨ Eq.cong₂ _++_ l≡l₁++a∷l₂₁ refl ⟩
```
Comment (HarrisonGrodin) [inline src/Examples/Sequence/RedBlackTree.agda:81]:
```suggestion
      ≡⟨ Eq.cong (_++ _) l≡l₁++a∷l₂₁ ⟩
```

File: src/Examples/Sequence/RedBlackTree.agda [hunk 2]
```diff
@@ -0,0 +1,701 @@
...
+        (l₁ ++ a ∷ l₂₁) ++ a₁ ∷ l₂₂
+      ≡⟨ List.++-assoc l₁ (a ∷ l₂₁) (a₁ ∷ l₂₂) ⟩
+        l₁ ++ a ∷ l₂₁ ++ a₁ ∷ l₂₂
+      ∎) ,
+    (valid (red (black t'₁₁ a'₁ t'₁₂) a' (black t'₂ a₁ t₂₂)))))
+      where open ≡-Reasoning
+joinLeftContCase₂ {A} l₁ l₂₁ l₂₂ a a₁ y₂₁ y₂₂ n₂ t₂₂ (l , l≡l₁++a∷l₂₁ , valid t') =
+  ret (((l₁ ++ [ a ] ++ l₂₁) ++ [ a₁ ] ++ l₂₂) ,
+    (List.++-assoc l₁ (a ∷ l₂₁) (a₁ ∷ l₂₂) ,
+    Eq.subst (λ l' → AlmostLeftRBT A black (suc n₂) l') (Eq.cong₂ _++_ l≡l₁++a∷l₂₁ refl) (valid (black t' a₁ t₂₂))))
```
Comment (HarrisonGrodin) [inline src/Examples/Sequence/RedBlackTree.agda:91]:
```suggestion
    Eq.subst (AlmostLeftRBT A black (suc n₂)) (Eq.cong₂ _++_ l≡l₁++a∷l₂₁ refl) (valid (black t' a₁ t₂₂))))
```

File: src/Examples/Sequence/DerivedFormsRBT.agda [hunk 3]
```diff
@@ -90,53 +125,266 @@ module MapReduce {A B : tp⁺} where
...
-        --       bind cost (g b s₂) λ s₃ →
-        --        funext
-        --   $ λ-mono-≤⁻ λ (s₁ , s₂) →
-        -- ≤⁻-mono (bind cost (f a)) $ λ-mono-≤⁻ λ b →
-        -- ≤⁻-mono (bind cost (g b s₂)) $ λ-mono-≤⁻ λ s₃ →
-        -- g-bound {s₁} {s₃}
-      ) ⟩
+      ≤⟨ bind-monoʳ-≤⁻ ((mapreduce/seq _ _ _ t₁ f g z) ∥ (mapreduce/seq _ _ _ t₂ f g z)) (λ (s₁ , s₂) →
+           bind-monoʳ-≤⁻ (f a) (λ b →
+             bind-monoʳ-≤⁻ (g b s₂) (λ s₃ → g-bound))) ⟩
```
Comment (EULIR) [inline src/Examples/Sequence/DerivedFormsRBT.agda:130]: The problem we ran into earlier can (and should) be solved via `bind-monoʳ-≤⁻` and `bind-monoˡ-≤⁻`.

**Comment by runmingl** [comment]
Now checked with Agda v2.6.3 with stdlib v2.0

**Review by HarrisonGrodin — APPROVED** [review]

**Comment by HarrisonGrodin** [comment]
(oops, those comments are from 3y ago! feel free to ignore haha)
